US05344830
Step C: (RS)-2-(2-Trityloxyethyl)-4-N-tritylpiperazine
To a mixture of 255 mg (1.96 mmol) of (±) 2-(2-hydroxyethyl)piperazine and 1.25 g (4.50 mmol) of triphenylmethyl chloride in 5.0 ml of methylene chloride was added 550 ml (3.95 mmol) of triethylamine in one portion and the mixture was stirred at room temperature overnight under a nitrogen atmosphere. The reaction was diluted with 5 mL of methylene chloride and washed with water (3×5 ml) and the layers separated. The aqueous layer was extracted with 10 mL of methylene chloride. The organic layers were combined and washed with 15 mL of saturated sodium chloride solution, dried over anhydrous sodium sulfate, filtered, and concentrated in vacuo to an orange foam. Flash chromatography on 75 g of silica gel using a gradient elution of 1:9 v/v ethyl acetate/hexane to 1:9 v/v ethanol/ethyl acetate yielded 401 mg (33%) of a foam.

reactant | (±) 2-(2-hydroxyethyl)piperazine | 1.96 mmol, 255 mg | OCCC1NCCNC1 | C6H14N2O
reactant | triphenylmethyl chloride | 4.50 mmol, 1.25 g | C1(=CC=CC=C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)Cl | C19H15Cl
reactant | triethylamine | 3.95 mmol, 550 ml | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | 5.0 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 5 mL | C(Cl)Cl | CH2Cl2
product | (RS)-2-(2-Trityloxyethyl)-4-N-tritylpiperazine | 401 mg, 33% | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)OCCC1NCCN(C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C44H42N2O
